US04342769
To 6-bromo-5-chloro-2[(methylsulfonyl)acetyl]-3-(2-pyridyl)indole (2.2 g) in 75 ml of ethanol add 0.175 g of sodium borohydride. After a solution is obtained (about 10 minutes) stir the mixture of another 30 minutes, then slowly add 2 ml of acetic acid. Treat with charcoal, filter and add 100 ml of water to the filtrate to obtain 6-bromo-5-chloro-2[1-hydroxy-2-methylsulfonyl)ethyl]-3-(2-pyridyl)indole.

reactant | 6-bromo-5-chloro-2[(methylsulfonyl)acetyl]-3-(2-pyridyl)indole | 2.2 g | BrC1=C(C=C2C(=C(NC2=C1)C(CS(=O)(=O)C)=O)C1=NC=CC=C1)Cl | C16H12BrClN2O3S
reactant | sodium borohydride | 0.175 g | [BH4-].[Na+]
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | charcoal | C | CH4
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 3-(2-pyridyl)indole | N1=C(C=CC=C1)C1=CNC2=CC=CC=C12 | C13H10N2
